US07566789B2
14.4 747 mg (3.93 mmol) of sodium disulfite are added to a solution of 1.15 g (7.86 mmol) of 2-chlorothiophene-5-carbaldehyde and 1.92 g (7.86 mmol) of methyl (3,4-diaminobenzenesulfonyl)acetate in 25 ml of 1-methylpyrrolidone, and the mixture is stirred at 110° C. for 18 hours. Water is added to the reaction mixture, which is extracted with dichloromethane. The organic phase is dried over sodium sulfate and evaporated. The residue is stirred with water, and the resultant precipitate is filtered off, giving methyl [2-(5-chlorothiophen-2-yl)-1H-benzimidazole-5-sulfonyl]-acetate as a brown solid; ESI 371.

reactant | sodium disulfite | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
reactant | 2-chlorothiophene-5-carbaldehyde | 7.86 mmol, 1.15 g | ClC=1SC(=CC1)C=O | C5H3ClOS
reactant | methyl (3,4-diaminobenzenesulfonyl)acetate | 7.86 mmol, 1.92 g | NC=1C=C(C=CC1N)S(=O)(=O)CC(=O)OC | C9H12N2O4S
reactant | Water | O | H2O
solvent | 1-methylpyrrolidone | 25 ml | CN1C(CCC1)=O | C5H9NO
product | methyl [2-(5-chlorothiophen-2-yl)-1H-benzimidazole-5-sulfonyl]-acetate | ClC1=CC=C(S1)C1=NC2=C(N1)C=CC(=C2)S(=O)(=O)CC(=O)OC | C14H11ClN2O4S2
